US07560558B2
6-Methoxy-7-methyl-quinoline (3 g) was added to an aqueous bromic acid solution (30 ml), and the mixture was heated under reflux for 7 hr. The reaction solution was cooled to room temperature, the aqueous layer was then neutralized with an aqueous sodium hydroxide solution and an aqueous sodium hydrogencarbonate solution. The organic layer was extracted with ether, the solvent was removed by distillation under the reduced pressure, and the residue was washed with cooled ether to give 6-hydroxy-7-methylquinoline (1.3 g, yield 47%).

reactant | 6-Methoxy-7-methyl-quinoline | 3 g | COC=1C=C2C=CC=NC2=CC1C | C11H11NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | bromic acid | 30 ml | Br(=O)(=O)O | BrHO3
product | 6-hydroxy-7-methylquinoline | 1.3 g, yield 47% | OC=1C=C2C=CC=NC2=CC1C | C10H9NO
